US04822805
To a solution of isoamyl nitrite (2.6 ml) and sodium methoxide (28% in methanol, 3.4 ml) in methanol (40 ml) was added dropwise a solution of 4-propionylpyridine (2.0 g) in methanol (10 ml) under ice-cooling. The reaction mixture was stirred at ambient temperature for 3 hours, and then neutralized with 1N hydrochloric acid. After evaporation to remove methanol, the organic layer was extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate, evaporated and triturated with diisopropyl ether to give 4-(2-hydroxyiminopropionyl)pyridine (0.95 g).

reactant | isoamyl nitrite | 2.6 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | sodium methoxide | 3.4 ml | C[O-].[Na+]
reactant | 4-propionylpyridine | 2.0 g | C(CC)(=O)C1=CC=NC=C1 | C8H9NO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 4-(2-hydroxyiminopropionyl)pyridine | 0.95 g | ON=C(C(=O)C1=CC=NC=C1)C | C8H8N2O2
